US07319152B2
5-(3,3-dimethyl-1-oxo-2,3-dihydro-1H-inden-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 1-methyl-2-cyanopyrrole according to the same coupling procedure as described in example 1. MS (ES) m/z 265.1. HRMS: calcd for C17H16N2O+H+, 265.13354; found (ESI, [M+H]+), 265.1332.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 1-methyl-2-cyanopyrrole | CN1C(=CC=C1)C#N | C6H6N2
product | 5-(3,3-dimethyl-1-oxo-2,3-dihydro-1H-inden-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile | CC1(CC(C2=CC=C(C=C12)C1=CC=C(N1C)C#N)=O)C | C17H16N2O
